US07456218B2
3-[4-({2′,6′-dimethyl-4′-[(6-methylpyridin-2-yl)methoxy]biphenyl-3-yl}methoxy)phenyl]propanoic acid hydrochloride
To a solution of methyl 3-{4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate (0.40 g, 1.03 mmol), (6-methylpyridin-2-yl)methanol (0.14 g, 1.13 mmol) and triphenylphosphine (0.34 g, 1.31 mmol) in tetrahydrofuran (8.0 mL) was added diisopropyl azodicarboxylate (40% toluene solution, 0.59 mL, 1.13 mmol) at room temperature with stirring. The reaction mixture was stirred at room temperature for 12 hrs., and an equivalent amount of the aforementioned reagents ((6-methylpyridin-2-yl)methanol, triphenylphosphine and diisopropyl azodicarboxylate) were added and the mixture was further stirred at the same temperature for 12 hrs. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=1/1) to give a colorless oil. Then, to a mixture of the oil, methanol (4 mL) and tetrahydrofuran (8 mL) was added 1 N aqueous sodium hydroxide solution (2.1 mL) at room temperature with stirring and the mixture was stirred at the same temperature for 2 hrs. The reaction mixture was neutralized with 1 N hydrochloric acid, diluted with ethyl acetate, washed with saturated brine, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=1/4) to give a colorless oil. The oil was dissolved in ethyl acetate and 4 N hydrogen chloride-ethyl acetate solution was added. The mixture was concentrated under reduced pressure. The obtained crystals were collected by filtration, washed and dried to give the title compound (0.24 g, yield 44%) as colorless crystals.

reactant | methyl 3-{4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate | 1.03 mmol, 0.40 g | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC)C | C25H26O4
reactant | (6-methylpyridin-2-yl)methanol | 1.13 mmol, 0.14 g | CC1=CC=CC(=N1)CO | C7H9NO
reactant | triphenylphosphine | 1.31 mmol, 0.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.13 mmol, 0.59 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | sodium hydroxide | 1 N, 2.1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | hydrogen chloride-ethyl acetate | 4 N | C(C)(=O)OCC.Cl
solvent | tetrahydrofuran | 8.0 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
product | 3-[4-({2′,6′-dimethyl-4′-[(6-methylpyridin-2-yl)methoxy]biphenyl-3-yl}methoxy)phenyl]propanoic acid hydrochloride | 0.24 g, yield 44% | Cl.CC1=C(C(=CC(=C1)OCC1=NC(=CC=C1)C)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)O | InChI=1S/C31H31NO4.ClH/c1-21-16-29(36-20-27-9-4-6-23(3)32-27)17-22(2)31(21)26-8-5-7-25(18-26)19-35-28-13-10-24(11-14-28)12-15-30(33)34;/h4-11,13-14,16-18H,12,15,19-20H2,1-3H3,(H,33,34);1H
